US08048887B2
2-(4-Fluorophenyl)-5-hydroxy-N-methyl-6-nitrobenzofuran-3-carboxamide
To a mixture of 2-(4-fluorophenyl)-5-isopropoxy-N-methyl-6-nitrobenzofuran-3-carboxamide (210.5 mg, 0.565 mmol) in CH2Cl2 (14 mL) at 0° C. under N2 was added trichloroborane (1.70 mL, 1.7 mmol) (1M solution in CH2Cl2). The mixture was then stirred at r.t. for 17 hr. The mixture was evaporated. The reddish orange residue was added 7 ml H2O, and then 3.5 ml 1N HCl, and left standing until the solid turned yellow. The yellow solid product was then filtered and washed with 3×3 ml H2O and dried (182 mg, 93%). 1H NMR (500 MHz, DMSO-d6) δ 10.18 (broad s, 1H), 8.53 (m, 1H), 8.31 (s, 1H), 7.98 (apparent dd, J=8.85, 5.49, 2H), 7.43 (apparent t, J=8.85, 2H), 7.28 (s, 1H,), 2.84 (appeared as d, J=4.58, 3H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=331.21, HPLC Rt=1.442 min.

reactant | 2-(4-fluorophenyl)-5-isopropoxy-N-methyl-6-nitrobenzofuran-3-carboxamide | 0.565 mmol, 210.5 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)[N+](=O)[O-])OC(C)C | C19H17FN2O5
reactant | trichloroborane | 1.7 mmol, 1M, 1.70 mL | ClB(Cl)Cl | BCl3
solvent | CH2Cl2 | 14 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)-5-hydroxy-N-methyl-6-nitrobenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)[N+](=O)[O-])O | C16H11FN2O5
